US03989708
Upon boiling a solution of 25.3 g of 3-nitrobenzylideneacetophenone and 13.0 g of amidinoacetic acid ethyl ester in 250 ml of ethanol for 2 hours, 2-amino-6-phenyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester of melting point 171°-172°C (ethanol) is obtained. Yield: 71 percent of theory.

reactant | 3-nitrobenzylideneacetophenone | 25.3 g | [N+](=O)([O-])C=1C=C(C=CC(=O)C2=CC=CC=C2)C=CC1 | C15H11NO3
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-amino-6-phenyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester | Yield: 71 percent | C(C)OC(=O)C1=C(NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)N | C20H19N3O4
